US05308857
To a mixture of 2-(diaminomethyleneamino)-4-(5-ureidomethylfuran-2-yl)thiazole (15.4 g) in methanol (160 ml) was added a solution of 19% (W/V) hydrogen chloride in methanol (31.6 ml) and the mixture was stirred for an hour at ambient temperature. To a reaction mixture was added a isopropyl ether and the isolated precipitate was collected by filtration. The precipitate was recrystallized from an aqueous ethanol to give 2-(diaminomethyleneamino)-4-(5-ureidomethylfuran-2-yl)thiazole hydrochloride (6.82 g).

reactant | 2-(diaminomethyleneamino)-4-(5-ureidomethylfuran-2-yl)thiazole | 15.4 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=O)N | C10H12N6O2S
reactant | hydrogen chloride | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 160 ml | CO | CH4O
solvent | methanol | 31.6 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-(5-ureidomethylfuran-2-yl)thiazole hydrochloride | 6.82 g | Cl.NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=O)N | InChI=1S/C10H12N6O2S.ClH/c11-8(12)16-10-15-6(4-19-10)7-2-1-5(18-7)3-14-9(13)17;/h1-2,4H,3H2,(H3,13,14,17)(H4,11,12,15,16);1H
